US08871767B2
N-(4-fluorobenzyl)-5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline
An 8 mL vial is charged with 5-(6-methoxyimidazo[2,1-f]pyridazin-2-yl)-2-methyl-aniline (20.3 mg, 0.08 mmol) in acetonitrile (0.5 mL), K2CO3 (13 mg) and 4-fluorobenzyl bromide (19 mg, 0.1 mmol). The mixture is stirred for 30 min then filtered, and the filtrate is added into water (10 mL). Solids precipitated and are collected by filtration to give the title compound (10 mg, 34% yield) (compound same as Example 102). LCMS m/z=363.3 [M+H]+, tR=2.57 min.

reactant | 5-(6-methoxyimidazo[2,1-f]pyridazin-2-yl)-2-methyl-aniline | 0.08 mmol, 20.3 mg | COC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(N)C2)C | C14H14N4O
reactant | K2CO3 | 13 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzyl bromide | 0.1 mmol, 19 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | N-(4-fluorobenzyl)-5-(6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline | 10 mg, 34% yield | FC1=CC=C(CNC2=C(C=CC(=C2)C=2N=C3N(N=C(C=C3)OC)C2)C)C=C1 | C21H19FN4O
